US09193692B2
E. 7-Bromo-1-((tetrahydro-2H-pyran-4-yl)methyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one
A stirred solution of ethyl 2-(5-bromo-3-((tetrahydro-2H-pyran-4-yl)methylamino)pyrazin-2-ylamino)acetate (1.474 g, 3.95 mmol) in acetic acid (13 mL) in a sealed vessel was heated at 120° C. in an oil bath for 2 h. The acetic acid was removed under reduced pressure. The residue was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate, shaken and the layers separated. The water layer was extracted twice with ethyl acetate. The combined organics were dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was taken up in dichloromethane and hexane and the resulting solids collected by vacuum filtration. The solids were washed with hexane and dried under vacuum to give the desired product (0.879 g, 2.688 mmol, 68% yield) as a purple solid. MS (ESI) m/z 327.1 [M]+, 329.0 [M+2]+.

reactant | ethyl 2-(5-bromo-3-((tetrahydro-2H-pyran-4-yl)methylamino)pyrazin-2-ylamino)acetate | 3.95 mmol, 1.474 g | BrC=1N=C(C(=NC1)NCC(=O)OCC)NCC1CCOCC1 | C14H21BrN4O3
solvent | acetic acid | 13 mL | C(C)(=O)O | C2H4O2
product | 7-Bromo-1-((tetrahydro-2H-pyran-4-yl)methyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 2.688 mmol, 0.879 g, 68% yield | BrC1=CN=C2C(=N1)N(C(CN2)=O)CC2CCOCC2 | C12H15BrN4O2
